US06603005B2
1.2 cm3 of thionyl chloride in 5 cm3 of dichloromethane were added to a solution of 1.55 g of ethyl 4-[3-(3-fluoroquinolin-4-yl)propyl]-1-(2-hydroxy-ethyl)piperidine-4-carboxylate in 35 cm3 of dichloromethane, with stirring at a temperature in the region of 20° C. After stirring for 42 hours at a temperature in the region of 20° C., the reaction mixture was concentrated to dryness under reduced pressure (1.2 kPa) at about 50° C. The foam obtained was taken up in 3 times 100 cm3 of cyclohexane, concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. and oven-dried under reduced pressure (10 kPa) at a temperature in the region of 20° C. 1.8 g of ethyl 1-(2-chloroethyl)-4-[3-(3-fluoroquinolin-4-yl)propyl]piperidine-4-carboxylate monohydrochloride were obtained in the form of a cream-colored solid.

reactant | thionyl chloride | 1.2 cm3 | S(=O)(Cl)Cl | Cl2OS
reactant | ethyl 4-[3-(3-fluoroquinolin-4-yl)propyl]-1-(2-hydroxy-ethyl)piperidine-4-carboxylate | 1.55 g | FC=1C=NC2=CC=CC=C2C1CCCC1(CCN(CC1)CCO)C(=O)OCC | C22H29FN2O3
reactant | cyclohexane | 100 cm3 | C1CCCCC1 | C6H12
solvent | dichloromethane | 5 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 35 cm3 | ClCCl | CH2Cl2
product | ethyl 1-(2-chloroethyl)-4-[3-(3-fluoroquinolin-4-yl)propyl]piperidine-4-carboxylate monohydrochloride | 1.8 g | Cl.ClCCN1CCC(CC1)(C(=O)OCC)CCCC1=C(C=NC2=CC=CC=C12)F | InChI=1S/C22H28ClFN2O2.ClH/c1-2-28-21(27)22(10-13-26(14-11-22)15-12-23)9-5-7-17-18-6-3-4-8-20(18)25-16-19(17)24;/h3-4,6,8,16H,2,5,7,9-15H2,1H3;1H
